US07435823B2
Step (a) Preparation of 6-(2-fluoropyrimidin-4-yloxy)-1-naphthoic acid
To a solution of 6-hydroxy-1-napthoic acid (3.23 g, 17.2 mmol) in DMSO (8 mL), Cs2CO3 (16.8 g, 57.6 mmol) was added and stirred at RT 10 min. 2,4-Difluoropyrimidine (2 g, 17.2 mmol) was added and the reaction was stirred at RT for 12 h. The mixture was diluted with water and made pH 7 using 1 N HCl, at which point it is a foamy emulsion. The mixture sat without stirring 2 days and the resulting solid was filtered and rinsed with water and Et2O to yield the title compound as a pink solid.

reactant | 6-hydroxy-1-napthoic acid | 17.2 mmol, 3.23 g | OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C11H8O3
reactant | Cs2CO3 | 57.6 mmol, 16.8 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2,4-Difluoropyrimidine | 17.2 mmol, 2 g | FC1=NC=CC(=N1)F | C4H2F2N2
reactant | HCl | 1 N | Cl | ClH
solvent | DMSO | 8 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 6-(2-fluoropyrimidin-4-yloxy)-1-naphthoic acid | FC1=NC=CC(=N1)OC=1C=C2C=CC=C(C2=CC1)C(=O)O | C15H9FN2O3
